US07338973B2
2,2-dimethyl-propionic acid 11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-yl ester
Following the procedure in Example 80, using 11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol (105 mg, 0.393 mmol) and PivCl (71 mg, 0.59 mmol) as the starting material, the title compound was prepared as a white solid.

reactant | 11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol | 0.393 mmol, 105 mg | CN1C2=CC=C(C=C2C=2CSC3=C(C12)C=CC=C3)O | C16H13NOS
reactant | PivCl | 0.59 mmol, 71 mg | C(=O)(C(C)(C)C)Cl | C5H9ClO
product | 2,2-dimethyl-propionic acid 11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-yl ester | CN1C2=CC=C(C=C2C=2CSC3=C(C12)C=CC=C3)OC(C(C)(C)C)=O | C21H21NO2S
